US07157457B2
Intermediate 38: tert-Butyl 3-(ethylthio)propylcarbamate
A solution of tert-butyl 3-bromopropylcarbamate (0.30 g) in N,N-dimethylformamide (5 ml) was treated with ethanethiol (0.104 ml) and potassium carbonate (0.29 g), and the mixture stirred at room temperature overnight. The mixture was partitioned between water (20 ml) and dichloromethane (30 ml), and the organic layers evaporated in vacuo to give the title compound (0.236 g).

reactant | tert-butyl 3-bromopropylcarbamate | 0.30 g | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
reactant | ethanethiol | 0.104 ml | C(C)S | C2H6S
reactant | potassium carbonate | 0.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 3-(ethylthio)propylcarbamate | 0.236 g | C(C)SCCCNC(OC(C)(C)C)=O | C10H21NO2S
